US04279918
2-(α-cyano-4-methoxybenzylidene)-1-methylpyrrolidine
Boil 30.0 g of 2,2-diethoxy-1-methylpyrrolidine, 25 g of 4-methoxybenzylcyanide and 150 ml of benzene under reflux for 4 hours. Concentrate the refluxed reaction product and distil the residue twice under a vacuum to obtain 30.6 g (79% of theory) of the title compound (b.p. 158° at 0.005 mm of Hg).

reactant | 2,2-diethoxy-1-methylpyrrolidine | 30.0 g | C(C)OC1(N(CCC1)C)OCC | C9H19NO2
reactant | 4-methoxybenzylcyanide | 25 g | COC1=CC=C(CC#N)C=C1 | C9H9NO
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2-(α-cyano-4-methoxybenzylidene)-1-methylpyrrolidine | C(#N)C(C1=CC=C(C=C1)OC)=C1N(CCC1)C | C14H16N2O
